US05162312
f) 17beta-acetoxy-3,3-ethylenedioxy-16alpha,17alpha-methylene-estra-5(10),9(11)-diene
5 g of 17beta-acetoxy-16alpha,17alpha-methylene-estra-4,9-dien-3-one is dissolved in 108 ml of benzene, mixed with 5 ml of glycol and 0.2 g of p-toluenesulfonic acid and boiled for 2 hours on the water separator. Then, it is stirred in an aqueous saturated sodium bicarbonate solution and the steroid is extracted with benzene. After chromatography on basic aluminum oxide and concentration of the eluates by evaporation, the thin-layer-chromatographically homogeneous residue is directly further processed.

reactant | 17beta-acetoxy-16alpha,17alpha-methylene-estra-4,9-dien-3-one | 5 g | C(C)(=O)O[C@]12[C@]3(C)[C@@H](C[C@H]1C2)[C@@H]2CCC1=CC(CCC1=C2CC3)=O | C21H26O3
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 108 ml | C1=CC=CC=C1 | C6H6
product | 17beta-acetoxy-3,3-ethylenedioxy-16alpha,17alpha-methylene-estra-5(10),9(11)-diene | C(C)(=O)O[C@]12[C@]3(C)[C@@H](C[C@H]1C2)[C@@H]2CCC=1CC4(CCC1C2=CC3)OCCO4 | C23H30O4
